US08114868B2
A mixture of (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one (1.6 g, 3.84 mmol) and 6-aminopyridin-3-ylboronic acid (1.0 g, 4.61 mmol), Pd(Ph3P)2Cl2 (150 mg), and aq Cs2CO3 solution (3.84 mL, 2 M) in 1,4-dioxane (150 mL) was stirred and heated to reflux for 2 h. The mixture was filtered and the filtrate was extracted with EtOAc. The combined organic phase was washed with brine, dried over anhydrous Na2SO4, and concentrated to give (R)-6-allyl-3-((S)-1-(4-(6-aminopyridin-3-yl)phenyl)ethyl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one (1.5 g, 90%), which was used for the next step without purification. 1H NMR (CDCl3): δ=1.51 (d, 3H), 2.17-2.31 (m, 3H), 2.54-2.60 (m, 2H), 2.90 (m, 1H), 4.46 (s, 2H), 4.99-5.09 (m, 2H), 5.65-5.71 (m, 2H), 6.54 (m, 2H), 6.88 (d, 2H), 7.03 (t, 2H), 7.21-7.27 (m, 3H), 7.58 (d, 1H), 8.22 (d, 1H).

reactant | (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | 3.84 mmol, 1.6 g | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)Br)C1=CC=C(C=C1)F | C21H21BrFNO2
reactant | 6-aminopyridin-3-ylboronic acid | 4.61 mmol, 1.0 g | NC1=CC=C(C=N1)B(O)O | C5H7BN2O2
reactant | Cs2CO3 | 2 M, 3.84 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)2Cl2 | 150 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (R)-6-allyl-3-((S)-1-(4-(6-aminopyridin-3-yl)phenyl)ethyl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | 1.5 g, 90% | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C=1C=NC(=CC1)N)C1=CC=C(C=C1)F | C26H26FN3O2
